US07361678B2
To a stirred solution of 3-nitrophenol (2 mmol) in DMF (6 mL) at rt, solid potassium carbonate (4 mmol) was added. A solution of the mesylate of N,N-diethylaminopropanol (2.2 mmol) in DMF (2 mL) was then added to the reaction mixture and heated to 80° C. until completion, according to General Procedure Q1, as indicated by TLC or HPLC. After cooling to rt, the reaction mixture was then treated with cold H2O (15 mL), and extracted with EtOAc (2×15 mL). The combined organic layers were washed with brine and dried over sodium sulfate. Evaporation of the solvent in vacuuo afforded the desired N,N-diethyl-N-[3-(3-nitrophenoxy)propyl]amine. The crude product was used directly for further transformation.

reactant | 3-nitrophenol | 2 mmol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium carbonate | 4 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | N,N-diethylaminopropanol | 2.2 mmol | C(C)N(CC)C(CC)O | C7H17NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | 15 mL | O | H2O
product | N,N-diethyl-N-[3-(3-nitrophenoxy)propyl]amine | C(C)N(CCCOC1=CC(=CC=C1)[N+](=O)[O-])CC | C13H20N2O3
